US09212141B2
In a typical reaction, a mixture of about 3 equivalents of triphenylphosphine and trifluoroacetic acid in carbon tetrachloride is cooled to about 0° C. in an ice bath and a 20% excess of triethylamine is added. With continued cooling, about a 20% excess of p-methoxyaniline in carbon tetrachloride is slowly added. After completion of the addition, the mixture is heated to about 70° C. for several hours. After cooling, the reaction mixture is extracted with hexane and the solvent evaporated to provide crude 2,2,2-trifluoro-N-(4-methoxyphenyl)acetimidoyl chloride.

reactant | triphenylphosphine | about 3 equivalents | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | p-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,2,2-trifluoro-N-(4-methoxyphenyl)acetimidoyl chloride | FC(C(=NC1=CC=C(C=C1)OC)Cl)(F)F | C9H7ClF3NO
